US06610708B1
50 ml of 1-butanol were added to 5.44 g (13.6 mmol) of (E)-3-carboxymethylidene-4-hydroxy-1-triphenylmethylpiperidine. Hydrogen chloride gas was blown through the resulting mixture, followed by stirring at 60° C. for 1 hour. After completion of the reaction, the solvent was distilled off under reduced pressure. The residue was washed with toluene, whereby 3.43 g (yield: 100%) of (E)-3-butoxycarbonylmethylidene-4-hydroxypiperidine hydrochloride were obtained as a white solid.

reactant | (E)-3-carboxymethylidene-4-hydroxy-1-triphenylmethylpiperidine | 13.6 mmol, 5.44 g | C(=O)(O)\C=C\1/CN(CCC1O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H25NO3
reactant | Hydrogen chloride | Cl | ClH
solvent | 1-butanol | 50 ml | C(CCC)O | C4H10O
product | (E)-3-butoxycarbonylmethylidene-4-hydroxypiperidine hydrochloride | 3.43 g, yield: 100% | Cl.C(CCC)OC(=O)\C=C\1/CNCCC1O | InChI=1S/C11H19NO3.ClH/c1-2-3-6-15-11(14)7-9-8-12-5-4-10(9)13;/h7,10,12-13H,2-6,8H2,1H3;1H/b9-7+;
